US08541425B2
Step 3: 4-[1-(1,4-Dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-4-yl]-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine
A mixture of 1,4-dioxaspiro[4.5]dec-8-yl methanesulfonate (0.50 g, 0.0015 mol) with 4-(1H-pyrazol-4-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine (0.36 g, 0.0011 mol) and sodium hydride (0.082 g, 0.0020 mol) was cooled at −78° C. and DMF (2.0 mL) was added. The reaction was allowed to warm to 25° C. and was then stirred for 20 minutes and was then heated to 55° C. for 24 hours. The reaction was then extracted with ethyl acetate. The organic extracts were washed with water and saturated NaCl, then dried (MgSO4) and concentrated in vacuo. The concentrate was chromatographed on silica gel using 1:1 EtOAc/hexanes to give the product. LC/MS (M+H)+: 456, 1H NMR(CDCl3): 8.89 (s, 1H), 8.35 (s, 1H), 8.30 (s, 1H), 7.44 (d, 1H), 6.87 (d, 1H), 5.73 (s, 2H), 4.38 (m, 1H), 4.06 (s, 4H), 3.60 (m, 2H), 2.22-2.31 (m, 4H), 2.00 (m, 2H), 1.86 (m, 2H), 0.98 (m, 2H), 0.00 (s, 9H)

reactant | 1,4-dioxaspiro[4.5]dec-8-yl methanesulfonate | 0.0015 mol, 0.50 g | CS(=O)(=O)OC1CCC2(OCCO2)CC1 | C9H16O5S
reactant | 4-(1H-pyrazol-4-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine | 0.0011 mol, 0.36 g | N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C15H21N5OSi
reactant | sodium hydride | 0.0020 mol, 0.082 g | [H-].[Na+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 4-[1-(1,4-Dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-4-yl]-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine | O1CCOC12CCC(CC2)N2N=CC(=C2)C=2C1=C(N=CN2)N(C=C1)COCC[Si](C)(C)C | C23H33N5O3Si
